US08404709B2
4-(4-Cyano-2-methoxyphenyl)-5-ethoxy-2-(trifluoromethyl)-1,4-dihydro-1,6-naphthyridine-3-carbonitrile
390 mg (1.05 mmol) of 4-(4-cyano-2-methoxyphenyl)-5-oxo-2-(trifluoromethyl)-1,4,5,6-tetrahydro-1,6-naphthyridine-3-carbonitrile and 398 mg of triethyloxonium tetrafluoroborate (2.1 mmol) are mixed under a dry argon atmosphere. After addition of dichloromethane (32 ml), the suspension is stirred until a solution is obtained (about 2 h), and then mixed with methanol and concentrated. The residue is purified by preparative HPLC to result in 250 mg (59% of theory) of the title compound as a white solid.

reactant | 4-(4-cyano-2-methoxyphenyl)-5-oxo-2-(trifluoromethyl)-1,4,5,6-tetrahydro-1,6-naphthyridine-3-carbonitrile | 1.05 mmol, 390 mg | C(#N)C1=CC(=C(C=C1)C1C(=C(NC=2C=CNC(C12)=O)C(F)(F)F)C#N)OC | C18H11F3N4O2
reactant | triethyloxonium tetrafluoroborate | 2.1 mmol, 398 mg | F[B-](F)(F)F.C(C)[O+](CC)CC
reactant | dichloromethane | 32 ml | ClCCl | CH2Cl2
solvent | methanol | CO | CH4O
product | 4-(4-Cyano-2-methoxyphenyl)-5-ethoxy-2-(trifluoromethyl)-1,4-dihydro-1,6-naphthyridine-3-carbonitrile | C(#N)C1=CC(=C(C=C1)C1C(=C(NC2=CC=NC(=C12)OCC)C(F)(F)F)C#N)OC | C20H15F3N4O2
